### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Bipartite): a graph is 2-colorable iff it's bipartite

### PR DESCRIPTION
**Pull request by s235282**
Define a predicate for a simple graph to be bipartite (`def IsBipartite (G : SimpleGraph V) : Prop := G.Colorable 2`) and prove ` G.IsBipartite ↔ ∃ s t : Set V, G.IsBipartiteWith s t`.

---

This is my first attempt at contributing to mathlib and therefore I have a couple of points of uncertainty related to:
- Naming conventions for theorems - Seeing a lot of isBipartite vs IsBipartite in the original work. What do we want to go with when?
- Definition placement - Where should I put the IsBipartite definition.
- Structure of biimplication theorems - Should I combine the different lemmas into 1 bgi theorem? 

Feedback is greatly appreciated :)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by s235282** [comment]
Okay clearly there are some things to I should look at before this is ready for review. Disregard until then.

**Comment by s235282** [comment]
Did some style/formatting changes. I think the change is ready to begin the review process.

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 1]
```diff
@@ -241,4 +247,72 @@ theorem isBipartiteWith_sum_degrees_eq_card_edges' (h : G.IsBipartiteWith s t) :
...
+  · rintro ⟨s, t, h⟩
+    exact bipartition_imp_twocol G h
+
+/--
+Using the previous statements to bride IsBipartite and IsBipartiteWith.
+-/
+theorem bipartite_iff_bipartition :
+  G.IsBipartite ↔ ∃ s t : Set V, G.IsBipartiteWith s t := by
+  dsimp [IsBipartite]
+  exact twocol_iff_bipartition G
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean:317]: and this one is unnecessary once `IsBipartite` is made an `abbrev`
```suggestion

```

**Review by YaelDillies — COMMENTED** [review]
Thank you for the PR! Can you please read the [naming convention](https://leanprover-community.github.io/contribute/naming.html), the [style guidelines](https://leanprover-community.github.io/contribute/style.html) and the [commit convention](https://leanprover-community.github.io/contribute/commit.html) and adapt your PR to them? Thank you!

**Comment by s235282** [comment]
Improved some of the naming and formatting thanks to the helpful pointers from Yaël. I'm wondering whether the isBipartite theorems/lemmas at the bottom should be its own section and also what the general point of view is with respect to classical vs. decidability statements. Currently G.IsBipartiteWith.isBipartite uses a "classical" statement but I'll be happy to change it if need be.

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 2]
```diff
@@ -4,6 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Mitchell Horner
 -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean:5]:
```suggestion
-/
import Mathlib.Algebra.Group.Indicator
```

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 3]
```diff
@@ -240,5 +244,50 @@ theorem isBipartiteWith_sum_degrees_eq_card_edges' (h : G.IsBipartiteWith s t) :
...
+    simp only [Set.mem_inter_iff, Set.mem_setOf_eq] at hv
+    have hv' : c v = 0 := hv.1
+    have hv'' : c v = 1 := hv.2
+    omega
+  have h₂ ⦃v w : V⦄ (h_adj : G.Adj v w) : v ∈ s ∧ w ∈ t ∨ v ∈ t ∧ w ∈ s := by
+    have h_color := hc_adj h_adj
+    simp [s, t, Set.mem_setOf_eq, Fin.forall_fin_two] at h_color ⊢
+    omega
+  exact ⟨s, t, h₁, h₂⟩
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]:
```suggestion
lemma IsBipartite.exists_isBipartiteWith (h : G.IsBipartite) : ∃ s t, G.IsBipartiteWith s t := by
  obtain ⟨c, hc⟩ := h
  refine ⟨{v | c v = 0}, {v | c v = 1}, by aesop (add simp [Set.disjoint_left]), ?_⟩
  rintro v w hvw
  apply hc at hvw
  simp [Set.mem_setOf_eq, Fin.forall_fin_two] at hvw ⊢
  omega
```

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 4]
```diff
@@ -240,5 +244,50 @@ theorem isBipartiteWith_sum_degrees_eq_card_edges' (h : G.IsBipartiteWith s t) :
...
+
+/-- If a simple graph `G` has a bipartition, then it is bipartite. -/
+lemma IsBipartiteWith.isBipartite {s t : Set V} (h : G.IsBipartiteWith s t) :
+    G.IsBipartite := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]:
```suggestion
lemma IsBipartiteWith.isBipartite {s t : Set V} (h : G.IsBipartiteWith s t) : G.IsBipartite := by
```

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 5]
```diff
@@ -240,5 +244,50 @@ theorem isBipartiteWith_sum_degrees_eq_card_edges' (h : G.IsBipartiteWith s t) :
...
+  classical
+  have h_disj  : Disjoint s t := h.1
+  have h_edges : ∀ v w, G.Adj v w → v ∈ s ∧ w ∈ t ∨ v ∈ t ∧ w ∈ s := h.2
+  use fun v => if v ∈ s then 0 else 1
+  intro v w hw
+  obtain (⟨hv_s, hw_t⟩ | ⟨hv_t, hw_s⟩) := h_edges v w hw
+  · have hw_not_s : w ∉ s := h_disj.subset_compl_left hw_t
+    simp [hv_s, hw_not_s]
+  · have hv_not_s : v ∉ s := h_disj.subset_compl_left hv_t
+    simp [hv_not_s, hw_s]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]:
```suggestion
  refine ⟨s.indicator 1, fun {v w} hw ↦ ?_⟩
  obtain (⟨hs, ht⟩ | ⟨ht, hs⟩) := h.2 hw <;>
    { replace ht : _ ∉ s := h.1.subset_compl_left ht; simp [hs, ht] }
```

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 6]
```diff
@@ -240,5 +244,50 @@ theorem isBipartiteWith_sum_degrees_eq_card_edges' (h : G.IsBipartiteWith s t) :
...
+
+/-- `G.IsBipartite` if and only if `G.IsBipartiteWith s t`. -/
+theorem isBipartite_iff_exists_isBipartiteWith :
+  G.IsBipartite ↔ ∃ s t : Set V, G.IsBipartiteWith s t where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]:
```suggestion
    G.IsBipartite ↔ ∃ s t : Set V, G.IsBipartiteWith s t where
```

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean (hunk 5 above)
Comment (s235282) [reply Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]: My guy is cooking 🔥

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 7]
```diff
@@ -240,5 +244,50 @@ theorem isBipartiteWith_sum_degrees_eq_card_edges' (h : G.IsBipartiteWith s t) :
     ∑ v ∈ t, G.degree v = #G.edgeFinset := isBipartiteWith_sum_degrees_eq_card_edges h.symm
 
 end IsBipartiteWith
+variable {V : Type*} (G : SimpleGraph V)
```
Comment (mitchell-horner) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]:
```suggestion

section IsBipartite
```
with a corresponding `end IsBipartite` before the `end SimpleGraph` at the bottom of the file.

`{V : Type*}` is already defined above and I don't think `G` needs to be explicit here. (You'll tend to see that if a lemma/theorem takes a hypothesis like `h : G.IsBipartite` then the argument for `G` is often left implicit unless lean can't figure out `G` from `h`. 😁)

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 8]
```diff
@@ -240,5 +244,50 @@ theorem isBipartiteWith_sum_degrees_eq_card_edges' (h : G.IsBipartiteWith s t) :
...
+    have h_color := hc_adj h_adj
+    simp [s, t, Set.mem_setOf_eq, Fin.forall_fin_two] at h_color ⊢
+    omega
+  exact ⟨s, t, h₁, h₂⟩
+
+
+/-- If a simple graph `G` has a bipartition, then it is bipartite. -/
+lemma IsBipartiteWith.isBipartite {s t : Set V} (h : G.IsBipartiteWith s t) :
+    G.IsBipartite := by
+  classical
```
Comment (mitchell-horner) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]:
```suggestion
```
Pending Yaël's suggestions.

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 9]
```diff
@@ -240,5 +244,50 @@ theorem isBipartiteWith_sum_degrees_eq_card_edges' (h : G.IsBipartiteWith s t) :
...
+  · have hv_not_s : v ∉ s := h_disj.subset_compl_left hv_t
+    simp [hv_not_s, hw_s]
+
+/-- `G.IsBipartite` if and only if `G.IsBipartiteWith s t`. -/
+theorem isBipartite_iff_exists_isBipartiteWith :
+  G.IsBipartite ↔ ∃ s t : Set V, G.IsBipartiteWith s t where
+  mp := IsBipartite.exists_isBipartiteWith G
+  mpr := by rintro ⟨s, t, h⟩; exact h.isBipartite
 
 end SimpleGraph
```
Comment (mitchell-horner) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean]:
```suggestion
    G.IsBipartite ↔ ∃ s t : Set V, G.IsBipartiteWith s t :=
  ⟨IsBipartite.exists_isBipartiteWith, fun ⟨_, _, h⟩ ↦ h.isBipartite⟩

end IsBipartite

end SimpleGraph
```

You can write short `where` proofs (or iffs) like this in the form `⟨..., ..., ...⟩`.

**Review by mitchell-horner — APPROVED** [review]
Thanks for the PR. 😁 Yaël has already covered most of the content.

(Sorry for taking a while to review, I've been traveling.)

**Comment by s235282** [comment]
All good, appreciate the changes 🙌.

**Comment by YaelDillies** [comment]
Don't forget to remove `awaiting-author` if you are done addressing the comments!

**Comment by s235282** [comment]
Uhh nice, didn't know I could do that.

**Review by YaelDillies — APPROVED** [review]
Please apply https://github.com/leanprover-community/mathlib4/pull/25059/files#r2127357434. Rest looks good, thanks!

maintainer delegate

**Comment by s235282** [comment]
Right, my mistake.

**Comment by s235282** [comment]
Nvm am still new around here 😅

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
